US07220856B2
Sodium hydride (72 mg, 3 mmol) is added to a solution of 7-chloro-4-quinolone (359 mg, 2 mmol) in DMF. After 1 h at 40° C. N-phenyl(trifluoromethylsulfon)imide (1.0 g, 2.8 mmol) and, 1 h later, 1-tert-butoxycarbonyl-2,5-dimethylpiperazine (1.8 g, 8 mmol) is added. The reaction mixture is stirred at 80° C. for 2 days, concentrated, diluted with EtOAc, washed with water and brine, dried (Na2SO4), and concentrated. The residue is purified by reversed phase HPLC with water-MeCN-TFA to give 4-[4-(tert-butoxycarbonyl)-2,5-dimethylpiperazin-1-yl]-7-chloroquinoline (188 mg, 0.5 mmol) which is deprotected with TFA in CH2Cl2 and transformed after being washed with base into the product with 4-fluorophenyl isocyanate (31 μL, 0.27 mmol) according to method C giving the title product as a colorless solid.

reactant | Sodium hydride | 3 mmol, 72 mg | [H-].[Na+]
reactant | 7-chloro-4-quinolone | 2 mmol, 359 mg | ClC1=CC=C2C(CC=NC2=C1)=O | C9H6ClNO
reactant | 1-tert-butoxycarbonyl-2,5-dimethylpiperazine | 8 mmol, 1.8 g | C(C)(C)(C)OC(=O)N1C(CNC(C1)C)C | C11H22N2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-[4-(tert-butoxycarbonyl)-2,5-dimethylpiperazin-1-yl]-7-chloroquinoline | 0.5 mmol, 188 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1C)C1=CC=NC2=CC(=CC=C12)Cl)C | C20H26ClN3O2
